US05948792
(2R)-N-[1-(6-methylpyridin-2-ylmethyl)piperidin-4-yl]-2-[(1R)-3,3-difluorocyclopentyl]-2-hydroxy-2-phenylacetamide
To a solution of 17 mg of (2R)-N-(piperidin-4-yl)-2-[(1R)-3,3-difluorocyclopentyl]-2-hydroxy-2-phenylacetamide in 2 ml of tetrahydrofuran, 3 μl of acetic acid, 12 mg of 6-methylpyridine-2-carbaldehyde and 21 mg of sodium triacetoxyborohydride were added sequentially at room temperature, and stirred overnight at the same temperature. The reaction mixture was diluted with ethyl acetate, washed with brine and dried over anhydrous magnesium sulfate. Distilling the solvent off under reduced pressure, the residue was purified by preparative thin layer chromatography (Kieselgel™ 60F254, Art 5744 (Merck) chloroform/methanol=10/1) to provide 9 mg of the title compound as a solid substance.

reactant | (2R)-N-(piperidin-4-yl)-2-[(1R)-3,3-difluorocyclopentyl]-2-hydroxy-2-phenylacetamide | 17 mg | N1CCC(CC1)NC([C@@](C1=CC=CC=C1)(O)[C@H]1CC(CC1)(F)F)=O | C18H24F2N2O2
reactant | 6-methylpyridine-2-carbaldehyde | 12 mg | CC1=CC=CC(=N1)C=O | C7H7NO
reactant | sodium triacetoxyborohydride | 21 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | acetic acid | 3 μl | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2R)-N-[1-(6-methylpyridin-2-ylmethyl)piperidin-4-yl]-2-[(1R)-3,3-difluorocyclopentyl]-2-hydroxy-2-phenylacetamide | 9 mg | CC1=CC=CC(=N1)CN1CCC(CC1)NC([C@@](C1=CC=CC=C1)(O)[C@H]1CC(CC1)(F)F)=O | C25H31F2N3O2
